US07351858B2
N-(4-tert-butylbenzyl)-N-ethylamine (0.143 g, 0.746 mmol) was dissolved in dry acetonitrile under N2 and N-ethyl-N,N-diisopropylamine (0.371 g, 2.867 mmol) was added. The mixture was stirred for 30 min and methyl 2-{2-[4-(2-chloro-2-oxoethoxy)phenyl]ethoxy}benzoate (0.200 g, 0.573 mmol) was added. The solution was stirred overnight at room temperature. The crude was purified by flash cromatography (started with isocratic heptane/EtOAc 50/50 and then the EtOAc concentration was increased to 100%, (silica gel 60 0.004-0.063 mm). The product containing fractions were pooled and the EtOAc was removed by evaporation to give 0.229 g of methyl 2-[2-(4-{2-[(4-tert-butylbenzyl)(ethyl)amino]-2-oxoethoxy}phenyl)ethoxy]benzoate (yield 79.3%).

reactant | N-(4-tert-butylbenzyl)-N-ethylamine | 0.746 mmol, 0.143 g | C(C)(C)(C)C1=CC=C(CNCC)C=C1 | C13H21N
reactant | N-ethyl-N,N-diisopropylamine | 2.867 mmol, 0.371 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methyl 2-{2-[4-(2-chloro-2-oxoethoxy)phenyl]ethoxy}benzoate | 0.573 mmol, 0.200 g | ClC(COC1=CC=C(C=C1)CCOC1=C(C(=O)OC)C=CC=C1)=O | C18H17ClO5
solvent | acetonitrile | C(C)#N | C2H3N
product | methyl 2-[2-(4-{2-[(4-tert-butylbenzyl)(ethyl)amino]-2-oxoethoxy}phenyl)ethoxy]benzoate | 0.229 g, yield 79.3% | C(C)(C)(C)C1=CC=C(CN(C(COC2=CC=C(C=C2)CCOC2=C(C(=O)OC)C=CC=C2)=O)CC)C=C1 | C31H37NO5
